US04849436
(a) Preparation of 1-Phthalimidomethyl acetoacetate
A solution of 10.0 g (0.056 mol) of N-(hydroxymethyl)phthalimide and 8.02 g (0.056 mol) of 2,2,6-trimethyl-1,3-dioxen-4-one in 100 ml of toluene was refluxed for 24 hours under nitrogen. Recrystallization in ethyl acetate gives 14.3 g (97%) of an off-white solid: mp 106°-109° C.; NMR (CDCl3) 7.6 (4H,m), 5.6 (2H,s), 3.4 (2H,s), 2.18 (3H,s);

reactant | N-(hydroxymethyl)phthalimide | 0.056 mol, 10.0 g | OCN1C(C=2C(C1=O)=CC=CC2)=O | C9H7NO3
reactant | 2,2,6-trimethyl-1,3-dioxen-4-one | 0.056 mol, 8.02 g | CC1=CC(=O)OC(O1)(C)C | C7H10O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Phthalimidomethyl acetoacetate | 14.3 g, 97% | C(CC(=O)C)(=O)OCN1C(C=2C(C1=O)=CC=CC2)=O | C13H11NO5
